US07235558B2
4-Amino-N-[4-({[(6-chloro-3-pyridinyl)carbonyl]amino}methyl)phenyl]-2-methyl-6-quinolinecarboxamide
To a solution of 27 mg (0.05 mmol) 4-Amino-N-[4-(aminomethyl)phenyl]-2-methyl-6-quinolinecarboxamide, 16 mg (0.1 mmol) 2-chloronicotinic acid, and 0.035 ml (0.25 mmol) triethylamine in 2 ml DMF was added 0.022 ml (0.1 mmol) DPPA and stirred at room temparature for 1 h. After evaporation of the solvent the residue was purified by HPLC and lyophilized to yield 2.7 mg (8%) of the title compound. MS 446.3 (M+1)+, 1H-NMR (DMSO-d6) δ 2.60 (s, 3H), 4.48 (d, 2H), 6.64 (s, 1H), 7.34 (d, 2H), 7.66 (d, 1H), 7.73 (d, 2H), 7.87 (d, 1H), 8.27 (dd, 1H), 8.35 (dd, 1H), 8.87 (s, 1H), 8.94 (s, 1H), 8.98 (br. 2H), 9.29 (t, 1H), 10.47 (s, 1H).

reactant | 4-Amino-N-[4-(aminomethyl)phenyl]-2-methyl-6-quinolinecarboxamide | 0.05 mmol, 27 mg | NC1=CC(=NC2=CC=C(C=C12)C(=O)NC1=CC=C(C=C1)CN)C | C18H18N4O
reactant | 2-chloronicotinic acid | 0.1 mmol, 16 mg | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | triethylamine | 0.25 mmol, 0.035 ml | C(C)N(CC)CC | C6H15N
reactant | DPPA | 0.1 mmol, 0.022 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-Amino-N-[4-({[(6-chloro-3-pyridinyl)carbonyl]amino}methyl)phenyl]-2-methyl-6-quinolinecarboxamide | 2.7 mg, 8% | NC1=CC(=NC2=CC=C(C=C12)C(=O)NC1=CC=C(C=C1)CNC(=O)C=1C=NC(=CC1)Cl)C | C24H20ClN5O2
